US06037474
Preparation of 2-butyl-4-methyl-4-(2-methylethyl)-imidazolidin-5-one
20.0 g of 2-amino-2,3-dimethylbutyramide (>96%, 0.147 mol.) are dissolved at room temperature in 100 ml of H2O and 50 ml of methanol and mixed with 13.2 g of valeraldehyde (0.152 mol.). The mixture is heated for 2.5 hours at 70° C. The two-phase mixture is extracted three times at room temperature using 200 ml of MIBK each time, and the combined organic phases are concentrated in vacuo. 25.3 g (97.8% (cis/trans mixture: 25:72; no assignment) of a white solid were obtained, corresponding to a yield of 82% of the theoretical yield.

reactant | 2-amino-2,3-dimethylbutyramide | 0.147 mol, 20.0 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
reactant | methanol | 50 ml | CO | CH4O
reactant | valeraldehyde | 0.152 mol, 13.2 g | C(CCCC)=O | C5H10O
solvent | H2O | 100 ml | O | H2O
product | 2-butyl-4-methyl-4-(2-methylethyl)-imidazolidin-5-one | yield of 82% | C(CCC)C1NC(C(N1)(CCC)C)=O | C11H22N2O
